US04093725
Concentrated sulphuric acid (8 ml) was added to a stirred mixture of 5-amino-1(2H)-phthalazinone (9.4 g, 0.058 mole) and water (50 ml). The resultant stirred paste was cooled in ice and diazotised by the addition of sodium nitrite (4.15 g, 0.06 mole) in water (15 ml). The filtered diazonium sulphate solution was added over 1.5 hours to a stirred boiling solution of concentrated sulphuric acid (30 ml) and boric acid (5.42 g, 0.088 mole) in water (200 ml). The solution was heated for a further 30 minutes then cooled and the collected solid was washed with water to give 5-hydroxy-1(2H)-phthalazinone 9.12 g, 96% m.p. 351°-355°). 5-Hydroxy-1(2H)-phthalazinone was purified as the 5-acetoxy derivative m.p. 162° (ethanol).

reactant | sulphuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-amino-1(2H)-phthalazinone | 0.058 mole, 9.4 g | NC1=C2C=NNC(C2=CC=C1)=O | C8H7N3O
reactant | sodium nitrite | 0.06 mole, 4.15 g | N(=O)[O-].[Na+]
reactant | sulphuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
reactant | boric acid | 0.088 mole, 5.42 g | B(O)(O)O | BH3O3
solvent | water | 15 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 5-hydroxy-1(2H)-phthalazinone | 9.12 g, 96% | OC1=C2C=NNC(C2=CC=C1)=O | C8H6N2O2
